US09334480B2
In a 200 mL round-bottomed flask, 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid methyl ester (0.87 g, 2.15 mmol) and LiOH (258 mg, 10.8 mmol) were combined with THF (20 mL1) and Water (5 mL) to give a purple suspension. The reaction was stirred at room temperature overnight. The next day the reaction was heated in dry block at 50° C. for 3.5 hr and cooled to room temperature. The reaction was dilute with water, concentrated, dilute with more water, and acidify with 1M HCl, and filtered. The resulting solid was washed with water and hexanes, and dried over house vacuum yielding 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid (0.86 g, 102% yield) as a purple solid. LC/MS calcd for C21H18N4O4 (m/e) 390.0, obsd 391.2 (M+H); 1H NMR; (DMSO-d6) δ: 13.35 (s, 1H), 11.19 (d, J=6.0 Hz, 1H), 10.97 (t, J=4.9 Hz, 1H), 7.75 (dd, J=7.7, 3.9 Hz, 2H), 7.56 (d, J=7.3 Hz, 2H), 7.22-7.44 (m, 5H), 6.20 (d, J=7.5 Hz, 1H), 5.80 (br. s., 1H), 4.92 (t, J=5.5 Hz, 1H), 3.54-3.74 (m, 3H).

reactant | 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid methyl ester | 2.15 mmol, 0.87 g | COC(=O)C1=CC=CC=2N=C(NC21)C=2C(NC=CC2NC[C@H](C2=CC=CC=C2)O)=O | C22H20N4O4
reactant | LiOH | 10.8 mmol, 258 mg | [Li+].[OH-]
reactant | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | Water | 5 mL | O | H2O
product | 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid | 0.86 g, 102% yield | O[C@H](CNC1=C(C(NC=C1)=O)C=1NC2=C(N1)C=CC=C2C(=O)O)C2=CC=CC=C2 | C21H18N4O4
